US07015218B1
N-[4-(1-Benzylpiperidin-4-yloxy)-3-cyanophenyl]-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid (1.0 g) and 5-amino-2-(1-benzylpiperidin-4-yloxy)benzonitrile (1.2 g), the title compound (0.6 g) was obtained, melting point: 194° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid | 1.0 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-(1-benzylpiperidin-4-yloxy)benzonitrile | 1.2 g | NC=1C=CC(=C(C#N)C1)OC1CCN(CC1)CC1=CC=CC=C1 | C19H21N3O
product | N-[4-(1-Benzylpiperidin-4-yloxy)-3-cyanophenyl]-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide | 0.6 g | C(C1=CC=CC=C1)N1CCC(CC1)OC1=C(C=C(C=C1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl)C#N | C30H28ClN5O2
